US08008481B2
To a solution of 5-nitro-1H-indazol-3-ylamine in pyridine (Ryan Scientific, 0.150 g, 0.838 mmol) cooled to about 0° C. in an ice bath, was added 3-dimethylamino-benzoyl chloride (0.154 g, 0.838 mmol). The reaction mixture was stirred as it warmed to ambient temperature. After about 1 hour it was poured into crushed ice, then extracted with EtOAc (10 mL). The organic solvent portion was washed with a 1M aqueous HCl solution, then concentrated and dried under reduced pressure. The residue was further purified via preparative RP-HPLC (Rainin C18, 8 mm, 300 Å, 35 cm; 5-100% acetonitrile/0.1 M ammonium acetate over 20 min, 100% acetonitrile hold 10 minutes, 21 mL/min) to obtain 3-dimethylamino-N-(5-nitro-1H-indazol-3-yl)-benzamide as a white solid (0.002 g, 0.006 mmol); RP-HPLC (Table 1, Method e) Rt 1.95 min; m/z: (M+H)+ 326.4.

reactant | 5-nitro-1H-indazol-3-ylamine | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)N | C7H6N4O2
reactant | pyridine | 0.838 mmol, 0.150 g | N1=CC=CC=C1 | C5H5N
reactant | 3-dimethylamino-benzoyl chloride | 0.838 mmol, 0.154 g | CN(C=1C=C(C(=O)Cl)C=CC1)C | C9H10ClNO
product | 3-dimethylamino-N-(5-nitro-1H-indazol-3-yl)-benzamide | 0.006 mmol, 0.002 g | CN(C=1C=C(C(=O)NC2=NNC3=CC=C(C=C23)[N+](=O)[O-])C=CC1)C | C16H15N5O3
